US05475109
Ethyl-N-Benzenesulfonyl-4-(benzyl)-piperidine-4-carboxylate
A solution of ethyl-N-benzenesulfonyl-isonipecotate (5 g, 0.016 mole) in tetrahydrofuran (1 L) at -78° C. was treated with a solution of Lithium bis (trimethylsilyl)amide in tetrahydrofuran (18.5 mL of a 1M solution). The solution was stirred at -60° for 15 minutes at which time benzyl bromide (3.15 g, 0.016 moles) was added and the reaction warmed to room temperature over 1.5 hours. The reaction was concentrated at reduced pressure to @ one quarter volume and then poured into saturated aqueous sodium bicarbonate (1 L) and extracted with ethyl acetate (2×800 mL). The combined extracts were dried over anhydrous magnesium sulfate, filtered, and concentrated at reduced pressure. The residue was chromatographed on silica gel with 30% ethyl acetate/hexane as eluent to give 5.1 g.

reactant | ethyl-N-benzenesulfonyl-isonipecotate | 0.016 mole, 5 g | C(C)OC(C1CCN(CC1)S(=O)(=O)C1=CC=CC=C1)=O | C14H19NO4S
reactant | Lithium bis (trimethylsilyl)amide | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
reactant | benzyl bromide | 0.016 moles, 3.15 g | C(C1=CC=CC=C1)Br | C7H7Br
solvent | tetrahydrofuran | 1 L | O1CCCC1 | C4H8O
product | Ethyl-N-Benzenesulfonyl-4-(benzyl)-piperidine-4-carboxylate | C(C)OC(=O)C1(CCN(CC1)S(=O)(=O)C1=CC=CC=C1)CC1=CC=CC=C1 | C21H25NO4S
